US07939536B2
a: Synthesis of dimethyl-[(E)-2-(4-pyrimidinyl)vinyl]amine
A mixture of 10 g of 4-methylpyrimidine, 38 g of N,N-dimethylformamide dimethylacetal (DMFDMA) and 46.6 g of DMF was stirred in a sealed tube at 140° C. for 24 hours. The reaction solution was cooled and the solvent was distilled off under reduced pressure to provide 15.08 g (yield: 95%) of the title compound as brown crystal.

reactant | 4-methylpyrimidine | 10 g | CC1=NC=NC=C1 | C5H6N2
reactant | N,N-dimethylformamide dimethylacetal | 38 g | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 46.6 g | CN(C)C=O | C3H7NO
product | dimethyl-[(E)-2-(4-pyrimidinyl)vinyl]amine | 15.08 g, yield: 95% | CN(\C=C\C1=NC=NC=C1)C | C8H11N3
